US07528157B2
A solution of (2-methyl-furan-3-yl)-acetic acid ethyl ester (11.8 g, 70.2 mmoles) in tetrahydrofuran (50 ml) was added to a stirred suspension of lithium aluminium hydride (2.66 g, 70.2 mmoles) under a nitrogen atmosphere and with cooling to 0° C. When the addition was complete the mixture was stirred at room temperature for 3 hours, then quenched by the addition of excess acetone. After acidifying with 10% aqueous hydrochloric acid the mixture was extracted three times with diethyl ether. The combined extracts were dried and evaporated to afford crude 2-(2-methyl-furan-3-yl)-ethanol as a yellow oil.

reactant | (2-methyl-furan-3-yl)-acetic acid ethyl ester | 70.2 mmoles, 11.8 g | C(C)OC(CC1=C(OC=C1)C)=O | C9H12O3
reactant | lithium aluminium hydride | 70.2 mmoles, 2.66 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(2-methyl-furan-3-yl)-ethanol | CC=1OC=CC1CCO | C7H10O2
